US07576108B2
(E)-3-Cyclohexyl-2-(4-nitro-phenyl)-prop-2-en-1-ol
Add tetrakis(triphenylphosphino)palladium(0) (0.60 g, 0.52 mmol) to a solution of 1-bromo-4-nitro-benzene (0.76 g, 3.76 mmol) and (E)-3-cyclohexyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-prop-2-en-1-ol (1.13 g, 4.24 mmol) in dioxane (20 mL). Add cesium fluoride (1.75 g, 12 mmol) and stir the reaction mixture for 12 h at 80° C. Allow the reaction mixture to cool to r.t. Dilute the reaction mixture with ethyl acetate and wash with water. Separate the layers. Dry the organic phase over sodium sulfate, filter and concentrate. Purify the residue via silica gel chromatography, eluting with a gradient from 95:5 to 7:3 hexanes:ethyl acetate to obtain the title compound (0.67 g). 1H-NMR (CDCl3) δ=1.05-1.72 (m, 10 H), 1.89-2.04 (m, 1H), 4.28-4.36 (m, 2H), 5.61-5.69 (m, 1H), 7.34-7.43 (m, 2H), 8.18-8.26 (m, 2H).

reactant | 1-bromo-4-nitro-benzene | 3.76 mmol, 0.76 g | BrC1=CC=C(C=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | (E)-3-cyclohexyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-prop-2-en-1-ol | 4.24 mmol, 1.13 g | C1(CCCCC1)/C=C(/CO)\B1OC(C(O1)(C)C)(C)C | C15H27BO3
reactant | cesium fluoride | 12 mmol, 1.75 g | [F-].[Cs+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphino)palladium(0) | 0.52 mmol, 0.60 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd-4](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | (E)-3-Cyclohexyl-2-(4-nitro-phenyl)-prop-2-en-1-ol | 0.67 g | C1(CCCCC1)/C=C(/CO)\C1=CC=C(C=C1)[N+](=O)[O-] | C15H19NO3
